US05571810
A mixture of phosphorus oxychloride (1.6 ml) and N,N-dimethylformamide (1.8 ml) in dichloroethane (6 ml) was stirred at ambient temperature for 1 hour. Dichloroethane (11 ml) and 4'-fluoro-2-(4-nitrophenyl)acetophenone (3 g) was added, and the mixture was refluxed overnight, washed with water twice, dried and evaporated. The oily residue (4 g) was purified by column chromatography on silica gel (80 g) eluting with toluene to give yellow crystals of 3-chloro-3-(4-fluorophenyl)-2-(4-nitrophenyl)propenal (2.9 g).

reactant | phosphorus oxychloride | 1.6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | 1.8 ml | CN(C=O)C | C3H7NO
reactant | 4'-fluoro-2-(4-nitrophenyl)acetophenone | 3 g | FC1=CC=C(C=C1)C(CC1=CC=C(C=C1)[N+](=O)[O-])=O | C14H10FNO3
solvent | dichloroethane | 6 ml | ClC(C)Cl | C2H4Cl2
solvent | Dichloroethane | 11 ml | ClC(C)Cl | C2H4Cl2
product | 3-chloro-3-(4-fluorophenyl)-2-(4-nitrophenyl)propenal | 2.9 g | ClC(=C(C=O)C1=CC=C(C=C1)[N+](=O)[O-])C1=CC=C(C=C1)F | C15H9ClFNO3
